US08236826B2
Production of 4-piperonylpiperazine-1-carboxylic acid {(4-[5-(3,4-dichlorobenzoylamino)pyridin-2-yloxy]phenyl}amide hydrochloride
To a solution of {4-[5-(3,4-dichlorobenzoyl-amino)pyridin-2-yloxy]phenyl}-carbamic acid phenyl ester (320 mg, 0.65 mmol) in DMF (4 mL) was added 1-piperonylpiperazine (285 mg, 1.29 mmol), and the resulting solution was stirred for 17 hours at room temperature. This reaction solution was concentrated under reduced pressure. Water was added to the residue, and extracted with ethyl acetate. The ethyl acetate layer was washed with brine, dried over anhydrous magnesium sulfate, and evaporated. The residue was then purified by silica gel column chromatography (dichloromethane:methanol=25:1). The obtained residue was dissolved in a mixed solvent of ethanol-ethyl acetate. To the resulting solution was added a solution of 4 N hydrogen chloride in ethyl acetate to bring the pH to 3. The precipitated white powder was then filtered off and washed with ethanol, to thereby yield 330 mg of the title compound.

reactant | {4-[5-(3,4-dichlorobenzoyl-amino)pyridin-2-yloxy]phenyl}-carbamic acid phenyl ester | 0.65 mmol, 320 mg | C1(=CC=CC=C1)OC(NC1=CC=C(C=C1)OC1=NC=C(C=C1)NC(C1=CC(=C(C=C1)Cl)Cl)=O)=O | C25H17Cl2N3O4
reactant | 1-piperonylpiperazine | 1.29 mmol, 285 mg | C(C1=CC=2OCOC2C=C1)N1CCNCC1 | C12H16N2O2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 4-piperonylpiperazine-1-carboxylic acid | C(C1=CC=2OCOC2C=C1)N1CCN(CC1)C(=O)O | C13H16N2O4
